US07851473B2
3-(4-Chlorophenyl)-5-chloro-1,2,4-thiadiazole
To a solution of 4-fluorobenzenecarboximidamide hydroiodide (5.00 g, 17.7 mmol) and perchloromethyl mercaptan (1.90 ml, 17.7 mmol) in dichloromethane (100 ml) was added dropwise a solution of sodium hydroxide (3.55 g, 88.8 mmol) in water (7 ml) under ice-cooling. Then, the reaction mixture was stirred under ice-cooling for 1 hour and at room temperature for 1 hour. The organic layer was separated, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 1.78 g (31.2%) of the desired product as a solid.

reactant | 4-fluorobenzenecarboximidamide hydroiodide | 17.7 mmol, 5.00 g | I.FC1=CC=C(C=C1)C(N)=N
reactant | perchloromethyl mercaptan | 17.7 mmol, 1.90 ml | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 88.8 mmol, 3.55 g | [OH-].[Na+]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 7 ml | O | H2O
product | 3-(4-Chlorophenyl)-5-chloro-1,2,4-thiadiazole | 1.78 g, 31.2% | ClC1=CC=C(C=C1)C1=NSC(=N1)Cl | C8H4Cl2N2S
